US06927221B2
2-(3-Mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetaldehyde
Des Martin reagent was added gradually to a solution of 6-(2-hydroxyethyl)-3-mesityl-2,5-dimethyl-4,7-dihydropyrazolo[1,5-a]pyrimidin-7-one (2.65 g, 8.14 mmol) in dichloromethane (200 mL) at room temperature, followed by stirring for three hours. A saturated solution of sodium thiosulfate was added to the reaction mixture, extracted with ethyl acetate, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (50% ethyl acetate/hexane, 10% ethyl acetate/methanol), to give the title compound (1.78 g) as a yellow amorphous.

reactant | 6-(2-hydroxyethyl)-3-mesityl-2,5-dimethyl-4,7-dihydropyrazolo[1,5-a]pyrimidin-7-one | 8.14 mmol, 2.65 g | OCCC1=C(NC=2N(C1=O)N=C(C2C2=C(C=C(C=C2C)C)C)C)C | C19H23N3O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-(3-Mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetaldehyde | 1.78 g | C1(=C(C(=CC(=C1)C)C)C=1C(=NN2C1NC(=C(C2=O)CC=O)C)C)C | C19H21N3O2
